US08357635B2
Preparation of trans 1-[2-(2,4-dichloro-phenyl)-cyclopropyl]-ethanone
A round bottom flask equipped with magnetic stirrer, nitrogen inlet and additional funnel was charged with trimethylsulfoxonium iodide (0.61 g, 2.78 mmol), DMSO (10 ml) and powdered sodium hydroxide (97 mg, 2.44 mmol). The suspension was stirred for 1.0 hour at ambient temperature to yield a solution. So prepared solution was added drop wise at ambient temperature to a solution of (E)-4-(2,4-dichloro-phenyl)-but-3-en-2-one (0.50 g, 2.32 mmol) prepared as described in example P30 in DMSO (10 ml). The reaction mixture was stirred for 0.5 hours, poured onto ice water (100 ml) and extracted with ether (3×25 ml). Combined organic layers were washed with water, brine and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (25 g) (eluent: n-hexane/ethyl acetate 10:1) to afford 0.33 g (62% of theory) of trans 1-[2-(2,4-dichloro-phenyl)-cyclopropyl]-ethyanone in form of an oil.

reactant | trimethylsulfoxonium iodide | 2.78 mmol, 0.61 g | [I-].C[S+](=O)(C)C
reactant | sodium hydroxide | 2.44 mmol, 97 mg | [OH-].[Na+]
reactant | (E)-4-(2,4-dichloro-phenyl)-but-3-en-2-one | 2.32 mmol, 0.50 g | ClC1=C(C=CC(=C1)Cl)/C=C/C(C)=O | C10H8Cl2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | trans 1-[2-(2,4-dichloro-phenyl)-cyclopropyl]-ethanone | ClC1=C(C=CC(=C1)Cl)[C@H]1[C@@H](C1)C(C)=O | C11H10Cl2O
